US05360811
N-[1-[4-(1-dodecynyl)-2-thienyl]-3-hydroxy-2-propyl]acetamide
To a solution of diethyl (acetamido)[[4-(1-dodecynyl)-2-thienyl]methyl]propanedioate (12.3 g) in dry tetrahydrofuran (100 ml) was added 2M lithium borohydride/tetrahydrofuran (12.8 ml), and the mixture was stirred at 60° C. for 4 hrs. The solution was cooled, quenched with a 50:50:10 solution of methanol:water:acetic acid, and extracted with ethyl acetate. The organic extracts were evaporated, and the residue was chromatographed on silica gel (9:1 ethyl acetate:dichloromethane). The appropriate fractions were collected and evaporated. The residue was crystallized from ether:heptane to give 5.3 g (57%) of product, mp 55°-58° C.

reactant | diethyl (acetamido)[[4-(1-dodecynyl)-2-thienyl]methyl]propanedioate | 12.3 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC=1SC=C(C1)C#CCCCCCCCCCC | C26H39NO5S
reactant | lithium borohydride tetrahydrofuran | 2M, 12.8 ml | [BH4-].[Li+].O1CCCC1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[1-[4-(1-dodecynyl)-2-thienyl]-3-hydroxy-2-propyl]acetamide | 5.3 g, 57% | C(#CCCCCCCCCCC)C=1C=C(SC1)CC(CO)NC(C)=O | C21H33NO2S
